US08440681B2
The mixture of 3-amino-5-phenylpyrazole (103 mg, 0.65 mmol), 2,4,5-trichloropyrimidine (74.5 μL, 0.65 mmol), and sodium carbonate (68.9 mg, 0.65) in 3 mL of EtOH is heated at 40° C. over night. The precipitate is filtered, washed by cold EtOH, and dried in vacuo to afford 2,5-Dichloro-N-(5-phenyl-1H-pyrazol-3-yl)pyrimidin-4-amine; ESMS m/z 306.0 (M+H+).

reactant | 3-amino-5-phenylpyrazole | 0.65 mmol, 103 mg | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
reactant | 2,4,5-trichloropyrimidine | 0.65 mmol, 74.5 μL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | sodium carbonate | 68.9 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2,5-Dichloro-N-(5-phenyl-1H-pyrazol-3-yl)pyrimidin-4-amine | ClC1=NC=C(C(=N1)NC1=NNC(=C1)C1=CC=CC=C1)Cl | C13H9Cl2N5
